US04877789
19.35 g of magnesium (0.79 gramme-atom) and then 750 cm3 of anhydrous tetrahydrofuran (THF) are placed in a 2-liter round-bottomed flask equipped with a stirrer and an argon inlet. 90.25 g of ethyl bromide (1.15 equivalent) are then introduced dropwise so as to maintain the THF refluxing. When the addition is complete, this refluxing is maintained until the magnesium has been completely converted. 100 g of 1-decyne (0.72 mol) are then added dropwise at this temperature in the course of approximately half an hour, and the mixture is maintained refluxing for a further hour and a half after the addition is complete. 5.20 g of cuprous cyanide are then introduced and boiling is maintained for a further hour. To the 1-decyne acetylide thereby formed, 250 g of 1,4-dichloro-2-butyne, or 2.8 equivalents with respect to the decyne, are added at a temperature maintained at between 40° and 50° C. Boiling is maintained for 5 hours. The solvent is removed in a rotary evaporator. The oily mass obtained is cooled and stirred in the presence of 350 cm3 of water saturated with ammonium chloride, and then extracted 3 times with ether. The ether phase is washed twice with water, dried over magnesium sulphate and then concentrated at normal pressure, and the remaining ether is then removed under a pressure of 26.6×102Pa. The crude 1-chloro-2,5-tetradecadiyne is distilled at a temperature of between 118° C. and 125° C. under 2.6 Pa. In the final fractions at between 125° C. and 130° C. under 4 Pa, the remainder of the expected product is distilled mixed with 1-bromo-2,5-tetradecadiyne, which forms during the reaction by exchange of chlorine with bromine.

reactant | magnesium | 19.35 g | [Mg] | Mg
reactant | ethyl bromide | 90.25 g, 1.15 equivalent | C(C)Br | C2H5Br
reactant | 1-decyne | 0.72 mol, 100 g | C#CCCCCCCCC | C10H18
solvent | THF | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 750 cm3 | O1CCCC1 | C4H8O
product | 1-decyne acetylide | [C-]#[C-].C#CCCCCCCCC | InChI=1S/C10H18.C2/c1-3-5-7-9-10-8-6-4-2;1-2/h1H,4-10H2,2H3;/q;-2
